US03952013
A solution of 1 part of 5-(3-methylbutoxy)-2-methylaniline in 50 parts of ether was treated with anhydrous hydrogen chloride gas until no further precipitation occurred. The precipitate was filtered off and dried to leave 1.2 parts of 5-(3-methylbutoxy)-2-methylaniline hydrochloride as a grey powder.

reactant | 5-(3-methylbutoxy)-2-methylaniline | CC(CCOC=1C=CC(=C(N)C1)C)C | C12H19NO
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 5-(3-methylbutoxy)-2-methylaniline hydrochloride | Cl.CC(CCOC=1C=CC(=C(N)C1)C)C | InChI=1S/C12H19NO.ClH/c1-9(2)6-7-14-11-5-4-10(3)12(13)8-11;/h4-5,8-9H,6-7,13H2,1-3H3;1H
